US04024183
To a solution of 1-isobutyl-3-m-aminophenylguanidine dihydrochloride (19.6 g.) in pyridine (100 ml.) is added dropwise a solution of p-chlorophenyl isocyanate (11.5 g.) in pyridine (25 ml.) at room temperature. The mixture is stirred for 16 hours, and the pyridine is removed by distillation under reduced pressure. The residual gum is shaken with a mixture of ether (100 ml.) and 1% aqueous sodium hydroxide solution (10 ml.) to remove pyridine hydrochloride whereafter the product crystallizes. The solid is filtered off, washed with water and ether and dried, and recrystallized from ethanol/petroleum ether b.p. 40°-60° C. to give 1-(3-isobutylguanidino)-3-(3-p-chlorophenylureido)benzene hydrochloride, m.p. 215°-216° C.

reactant | 1-isobutyl-3-m-aminophenylguanidine dihydrochloride | 19.6 g | Cl.Cl.C(C(C)C)NC(=N)NC1=CC(=CC=C1)N
reactant | p-chlorophenyl isocyanate | 11.5 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 1-(3-isobutylguanidino)-3-(3-p-chlorophenylureido)benzene hydrochloride | Cl.C(C(C)C)NC(NC1=CC(=CC=C1)NC(=O)NC1=CC=C(C=C1)Cl)=N | InChI=1S/C18H22ClN5O.ClH/c1-12(2)11-21-17(20)22-15-4-3-5-16(10-15)24-18(25)23-14-8-6-13(19)7-9-14;/h3-10,12H,11H2,1-2H3,(H3,20,21,22)(H2,23,24,25);1H
